US05021412
Synthesis of 2-(2,2,2-trifluoroethylimino)-3-(4-trifluoromethylbenzyl)-5-(3-methylphenyl)-tetra-hydro-1,3,5-thiadiazin-4-one (compound No. 39)
A solution of 1.00 g of trichloromethyl chloroformate in 10 ml of benzene was added dropwise to a solution of 1.19 g of 1,3,5-tris(3-methylphenyl)-hexahydro-s-triazine in 20 ml of tetrahydrofuran at room temperature with stirring in a nitrogen stream. The reaction mixture was stirred at room temperature for 1.5 hours. Then, 3.16 g of 1-(4-trifluoromethylbenzyl)-3-(2,2,2-trifluoroethyl)thiourea was added at room temperature with stirring, and subsequently, 4.0 ml of triethylamine was added. The mixture was stirred at room temperature for 12 hours. Aqueous ammonia (30 ml) was added to the reaction mixture, and it was extracted with 150 ml of ethyl acetate. The ethyl acetate solution was washed with water and dried. Under reduced pressure, ethyl acetate was evaporated. The resulting oily product was purified by column chromatography silica gel; eluent: hexane/ethyl acetate (10/1)]to give 0.54 g of the captioned compound.

reactant | trichloromethyl chloroformate | 1.00 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 1,3,5-tris(3-methylphenyl)-hexahydro-s-triazine | 1.19 g | CC=1C=C(C=CC1)N1CN(CN(C1)C1=CC(=CC=C1)C)C1=CC(=CC=C1)C | C24H27N3
reactant | 1-(4-trifluoromethylbenzyl)-3-(2,2,2-trifluoroethyl)thiourea | 3.16 g | FC(C1=CC=C(CNC(=S)NCC(F)(F)F)C=C1)(F)F | C11H10F6N2S
reactant | ammonia | 30 ml | N | H3N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 4.0 ml | C(C)N(CC)CC | C6H15N
product | 2-(2,2,2-trifluoroethylimino)-3-(4-trifluoromethylbenzyl)-5-(3-methylphenyl)-tetra-hydro-1,3,5-thiadiazin-4-one | 0.54 g | FC(CN=C1SCN(C(N1CC1=CC=C(C=C1)C(F)(F)F)=O)C1=CC(=CC=C1)C)(F)F | C20H17F6N3OS
